US06387919B1
2-Oxo-3-[(4-sulfamoyl-phenyl)hydrazono]-2,3-dihydro-1H-indol-5-carboxylic acid-2,6-dimethoxybenzylamide (Z-isomer)
The title compound was prepared from 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester and 2,6dimethoxybenzylamine according to Procedure K: mp>250° C.; 1H NMR (DMSO-d6): δ 3.76 (s, 6H), 4.43 (d, J=4.2 Hz, 2H), 6.65 (d, J=8.4 Hz, 2H), 6.91 (d, J=8.2 Hz, 1H), 7.23 (s, 2H), 7.25 (d, J=8.2 Hz, 1H), 7.56 (d, J=8.6 Hz, 2H), 7.79 (m, 3H), 8.07 (s, 1H), 8.13 (brs, 1H), 11.27 (s, 1H), 12.76 (s, 1H); APCI−MS m/z 532 (M+Na)+; Anal. Calcd for C24H23N5O6S.1/2 H2O: C, 55.59; H, 4.67; N, 13.51; S, 6.18. Found: C, 55.69; H, 4.64; N, 13.61; S, 6.09.

reactant | 2-oxo-3[(4-sulfamoyl-phenyl)-hydrazono]-2,3-dihydro-1H-indole-5-carboxylic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC(=O)C=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(N)(=O)=O)F)F)F)F | C21H11F5N4O5S
reactant | 2,6dimethoxybenzylamine | COC1=C(CN)C(=CC=C1)OC | C9H13NO2
solvent | H2O | O | H2O
product | 2-Oxo-3-[(4-sulfamoyl-phenyl)hydrazono]-2,3-dihydro-1H-indol-5-carboxylic acid-2,6-dimethoxybenzylamide | COC1=C(CNC(=O)C=2C=C3C(C(NC3=CC2)=O)=NNC2=CC=C(C=C2)S(N)(=O)=O)C(=CC=C1)OC | C24H23N5O6S
